Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / chloroquine
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman from ___ with a 
history of hypertension, who is presents with chest pain. 
Patient states that his pain started around 6 days ago and 
located on the right side of his chest. It sometimes radiates to 
the side of his right chest. It is sharp and constant. Went away 
for 2 days then came back. Sometimes will change with different 
positions - sitting or lying down certain ways. No fevers or 
chills, no SOB, no diaphoresis. Has not had pain like this 
before. He does note that he felt winded climbing up a flight of 
stairs earlier this week.  
 Patient states that he has had hypertension for around ___ years 
and was followed by a PCP in ___. He has been on 
amlodipine 10mg for several years. He has never been told he has 
kidney issues in the past, and was last checked for diabetes a 
few years ago. Denies headaches.  
 
 In the ED, initial vitals were: 97.7, 98, 194/111, 18, 100% RA  

 - Exam notable for:  
 Alert, pleasant, conversant, oriented x3, no distress  
 Lungs CTABL, no wheeze or crackle  
 Point tender over the right chest wall at the site of his pain. 
 
 RRR +S1S2  
 No spinal tenderness, no CVAT  
 Abd soft, nt, nd, with intact bowel sounds, no focal tenderness 
 
 BLE without edema, warm well perfused distally, bilateral 
radial and DP palpated  
 - Labs notable for:  
 CBC: WBC 7.4, Hgb 15.1, Hct 44.7, Plt 192  
 Lytes:  
 140 / 101 / 21  
 -------------- 97  
 3.6 \ 29 \ 1.7  
 ___: 10.7 PTT: 30.0 INR: 1.0  
 Trop-T: <0.01  
 - Imaging was notable for:  
 EKG - NSR 97 NI LAD 2mmSTE V2, 1mmSTE V1, no STD, no prior, no 
TWI  
 - CXR with no acute process  
 
 - Patient was given 1L NS  
 - Vitals prior to transfer: 98.6, 78, 160/109, 16, 98% RA  
 Upon arrival to the floor, patient reports that he continues to 
have the same chest pain  

 
Past Medical History:
- hypertension  
 - "thick blood" - patient was told by previous PCP to take 
aspirin as blood seemed thick when it was drawn. He takes an 
aspirin a few times a week and when he travels  

 
Social History:
___
Family History:
- Grandfather - kidney failure related to alcohol use  
- Mother - htn  

 
Physical ___:
Admission and discharge exam:
Vital Signs: 98.2, HR 78, BP 193/126, RR 20, 100%RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI. Hard 
lump over right ear, nontender, 1x1cm  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops. Patient with significant tenderness over the left side 
of his anterior chest wall. 
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: Grossly normal  

 
Pertinent Results:
Admission labs
___ 09:00PM BLOOD WBC-7.4 RBC-5.29 Hgb-15.1 Hct-44.7 MCV-85 
MCH-28.5 MCHC-33.8 RDW-12.7 RDWSD-39.0 Plt ___
___ 09:00PM BLOOD Neuts-41.2 ___ Monos-9.3 Eos-2.3 
Baso-0.9 Im ___ AbsNeut-3.06 AbsLymp-3.42 AbsMono-0.69 
AbsEos-0.17 AbsBaso-0.07
___ 09:00PM BLOOD ___ PTT-30.0 ___
___ 09:00PM BLOOD Glucose-97 UreaN-21* Creat-1.7* Na-140 
K-3.6 Cl-101 HCO3-29 AnGap-14
___ 07:05AM BLOOD Glucose-98 UreaN-18 Creat-1.5* Na-141 
K-3.3 Cl-105 HCO3-23 AnGap-16
___ 09:00PM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD Albumin-4.1 Calcium-8.9 Phos-3.7 Mg-2.1 
Cholest-171
___ 07:05AM BLOOD %HbA1c-5.8 eAG-120
___ 07:05AM BLOOD Triglyc-67 HDL-47 CHOL/HD-3.6 LDLcalc-111
___ 07:05AM BLOOD TSH-2.6
___ 11:05AM BLOOD CRP-0.8

Imaging
___ Renal US
IMPRESSION:  
There is increased echogenicity of the kidneys bilaterally, 
compatible with medical renal disease.  No evidence of 
hydronephrosis or nephrolithiasis. 

___ CXR
No acute intrathoracic process.

Urine studies:
___ 03:26AM URINE Hours-RANDOM Creat-29 TotProt-27 
Prot/Cr-0.9*
___ 09:00PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 09:00PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___:00PM URINE Color-Straw Appear-Clear Sp ___
 
Brief Hospital Course:
***TRANSITIONAL ISSUES***
#Does not have PCP, ___, or a social security 
number, he was instructed to contact ___ 
___ at ___ to establish care and help with 
obtaining health insurance 
#If additional agent is needed for BP control, would recommend 
ACE inhibitor given proteinuria (once SCr stabilized) 
#Please calibrate home blood pressure cuff with clinic blood 
pressures 
#Renal ultrasound showing increased echogenicity, will need 
workup for medical renal disease given his elevated SCr and 
proteinuria (unclear baseline), consider nephrology consult 
#EKG reviewed with cardiology, showed LVH with repolarization 
abnormalities. Consider echocardiogram for further clarification 
especially if patient remains hypertensive. 

BRIEF SUMMARY:
___ is a ___ year old ___ man with a history of 
hypertension who moved to the ___ about 8 months ago from ___ and has not established primary care due to lack of 
health insurance. He has been taking his amlodipine 10mg daily 
(old script from ___ and checking his blood pressure 
at home with a wrist cuff. 

For the last week, he developed a constant chest discomfort, in 
two quarter-sized locations on the left chest wall which was 
pleuritic in nature and extremely tender to palpation. This is 
in the setting of his wife having a cold and then him having a 
sore throat prior to chest pain onset and also a possible chest 
wall strain while working. He was ruled out for ACS with 
negative troponin x 2, EKG suggested LVH with repolarization 
abnormalities (reviewed EKG with cardiology fellow) without 
concern for pericarditis. His CXR was unremarkable for an acute 
process. Given his profound tenderness on exam and lack of 
hypoxemia, PE was felt unlikely. 

He did have an elevated BUN/SCr to ___ which improved 
slightly with fluid to ___, in addition to proteinuria on his 
UA and a renal ultrasound showing "increased echogenicity of the 
kidneys bilaterally, compatible with medical renal disease. No 
evidence of hydronephrosis or nephrolithiasis". 

His A1C, lipid panel, and TSH were in normal limits and he has 
no electrolyte abnormality on chem 10 to suggest a secondary 
cause to his hypertension. 

Given his lack of health insurance, social work suggested 
establishing care at ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO 2X/WEEK (MO,TH) 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
-Atypical chest pain likely secondary to viral pleurisy vs. MSK 
injury
-Acute renal failure with unknown baseline 

Secondary diagnosis: 
-Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

===================================
Why did you come to the hospital? 
===================================
-You were having chest pain 

================================
What happened at the hospital? 
================================
-We discussed the likely cause of the chest pain was either a 
viral infection causing inflammation of the lining of your lung 
("pleurisy") or an injury to the chest wall that occurred at 
work. 
-Tests showed you did NOT have a heart attack  
-Your labs indicated mild kidney damage, likely from elevated 
blood pressure.  

==================================================
What needs to happen when you leave the hospital? 
==================================================
-Please contact the Southern ___ at 
___.  They will help you establish health insurance and 
also serve as a site to establish primary care.  
-Speak with our financial office regarding options for health 
insurance.  Our social work team has notified the office - you 
can expect a call on ___ ___.  If you do not hear 
from them, they can be reached at ___.  
-Please continue to monitor your blood pressure at home and take 
the amlodipine every day, you may need more medication to better 
control, but this will be addressed as an outpatient. 
-Please bring your discharge summary to the health center to 
facilitate your needed follow up.  

It was a pleasure taking care of you! 

Sincerely, 

Your ___ medical team 

 
Followup Instructions:
___